US05098462
A solution of ethyl 2-methylnicotinate (2.0 g, 12.12 mmol), selenium dioxide (20.0 g, 18.18 mmol) and dioxane (10 ml) is heated at 135° for 4 hours. The reaction mixture is filtered and the filtrate is concentrated and purified by prep. TLC to give ethyl 2-formylnicotinate.

reactant | ethyl 2-methylnicotinate | 12.12 mmol, 2.0 g | CC1=C(C(=O)OCC)C=CC=N1 | C9H11NO2
reactant | selenium dioxide | 18.18 mmol, 20.0 g | [Se](=O)=O | O2Se
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | ethyl 2-formylnicotinate | C(=O)C1=C(C(=O)OCC)C=CC=N1 | C9H9NO3
